US04197243
Following the procedure set forth in general method A supra using 1.29 g. of 5-chloro-4-diethylamino-2-methoxybenzoic acid and 0.97 g. of 3-amino-1-benzylpyrrolidine, 0.93 g. of oily N-(1-benzyl-3-pyrrolidinyl)-5-chloro-4-diethylamino-2-methoxybenzamide was obtained (purified by a silica gel column chromatography using a mixture of chloroform, ether and methanol (volume ratio 5:2:1) as an eluting solution).

reactant | 5-chloro-4-diethylamino-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)N(CC)CC | C12H16ClNO3
reactant | 3-amino-1-benzylpyrrolidine | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
product | N-(1-benzyl-3-pyrrolidinyl)-5-chloro-4-diethylamino-2-methoxybenzamide | C(C1=CC=CC=C1)N1CC(CC1)NC(C1=C(C=C(C(=C1)Cl)N(CC)CC)OC)=O | C23H30ClN3O2
